US05171753
β,β'-[(2-Hydroxy-1,3-propanediyl)diimino]bis(α-phenylbenzeneethanol).
A mixture of trans-stilbene oxide (3.93 g, 0.020 mol) and 2-hydroxy-1,3-propanediamine (0.90 g, 0.010 mol) was heated on a steam bath for 18 hours, giving a white solid. The material was triturated with boiling toluene and allowed to cool. The white solid that formed was collected, washed with toluene, and dried under ambient conditions for 18 hours. The solid was then vacuum dried over refluxing toluene for 4 hours to obtain 2.60 g (55% yield); mp 155°-175° C. (undefined).

reactant | trans-stilbene oxide | 0.020 mol, 3.93 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2-hydroxy-1,3-propanediamine | 0.010 mol, 0.90 g | OC(CN)CN | C3H10N2O
product | β,β'-[(2-Hydroxy-1,3-propanediyl)diimino]bis(α-phenylbenzeneethanol) | 55% yield | OC(CNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1)CNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C31H34N2O3
